US07943622B2
Step 4. Synthesis of N-(4-(methylcarbamoyl)phenyl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4-(methylcarbamoyl)phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt (103 mg, 0.177 mmol) in MeOH (1 mL). After stirring overnight, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and treated with 4 M HCl in 1,4-dioxane (6 mL). The mixture was concentrated under reduced pressure to give 42.8 mg (55%) of the title compound as a white solid. LC-MS: RT=2.22 min, [M+H]+=370.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-(methylcarbamoyl)phenylcarbamoyl)-3-((pyridin-3-yloxy)methyl)piperazine-1-carboxylate TFA salt | 0.177 mmol, 103 mg | OC(=O)C(F)(F)F.CNC(=O)C1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)COC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | N-(4-(methylcarbamoyl)phenyl)-2-((pyridin-3-yloxy)methyl)piperazine-1-carboxamide dihydrochloride | 42.8 mg, 55% | Cl.Cl.CNC(=O)C1=CC=C(C=C1)NC(=O)N1C(CNCC1)COC=1C=NC=CC1 | InChI=1S/C19H23N5O3.2ClH/c1-20-18(25)14-4-6-15(7-5-14)23-19(26)24-10-9-22-11-16(24)13-27-17-3-2-8-21-12-17;;/h2-8,12,16,22H,9-11,13H2,1H3,(H,20,25)(H,23,26);2*1H
